US05563162
To a solution of 8-hydroxy-2-methylquinoline (17.8 g) in N,N-dimethylformamide (89 ml) was added sodium hydride (40% in oil, 4.48 g) under ice-bath cooling, and the mixture was stirred for 40 minutes at ambient temperature. A solution of 2,6-dichloro-1-methylsulfonyloxy-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene (56.1 g) in N,N-dimethylformamide (200 ml) was added thereto under ice-bath cooling, and the mixture was stirred for 70 minutes at ambient temperature. Water (290 ml) was dropwise added thereto, and the resulting precipitate was collected by filtration to give 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methylquinoline (57.07 g).

reactant | 8-hydroxy-2-methylquinoline | 17.8 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | sodium hydride | 4.48 g | [H-].[Na+]
reactant | 2,6-dichloro-1-methylsulfonyloxy-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene | 56.1 g | ClC1=C(C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl)OS(=O)(=O)C | C18H14Cl2N2O6S
reactant | Water | 290 ml | O | H2O
reactant | N,N-dimethylformamide | 89 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methylquinoline | 57.07 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl | C28H21Cl2N3O4
